US04824958
3-Isopropylthio-N-1H-tetrazol-5-yl-2-furancarboxamide.
A solution of 5.0 mL (5.0 mmol, 1.1 equiv) of 1.0 M tetra-n-butylammonium fluoride/tetrahydrofuran is added to a room temperature solution of 1.51 g (4.64 mmol) of 3-isopropylthio-5-trimethylsilyl-N-1H-tetrazol-5-yl-2-furancarboxamide in 15 mL of tetrahydrofuran. The resulting mixture is stirred at room temperature for 18 hours and concentrated in vacuo. The residue is suspended in water (100 mL) and acidified with 10% aqueous hydrochloric acid. The precipitate is isolated by vacuum filtration and recrystallized from toluene affording 1.26 g (1.77 g theo., 71%) of the carbamoyltetrazole as a tan solid; mp 201°-203° C.

reactant | tetra-n-butylammonium fluoride tetrahydrofuran | 5.0 mmol, 1.0 M, 5.0 mL, 1.1 equiv | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | 3-isopropylthio-5-trimethylsilyl-N-1H-tetrazol-5-yl-2-furancarboxamide | 4.64 mmol, 1.51 g | C(C)(C)SC1=C(OC(=C1)[Si](C)(C)C)C(=O)NC1=NN=NN1 | C12H19N5O2SSi
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-Isopropylthio-N-1H-tetrazol-5-yl-2-furancarboxamide | C(C)(C)SC1=C(OC=C1)C(=O)NC1=NN=NN1 | C9H11N5O2S
